US05166347
Preparation of N-cyano-N'-(2-phenylethyl)-4-cyanobenzene-carboximidamide
Methyl N-cyano-4-cyanobenzenecarboximidate (0.37 g, 2.0 mmol) was suspended in methanol (4 ml), and 2-phenylethylamine (0.25 g, 2.1 mmol) was added. The mixture was stirred at room temperature for 1 hour. After the reaction was completed, methanol (6 ml) and diethyl ether (10 ml) were added to the reaction solution, and deposited crystals were collected by filtration to give the title compound (0.51 g, 1.87 mmol, yield: 94%) as colorless crystals.

reactant | Methyl N-cyano-4-cyanobenzenecarboximidate | 2.0 mmol, 0.37 g | C(#N)N=C(OC)C1=CC=C(C=C1)C#N | C10H7N3O
reactant | 2-phenylethylamine | 2.1 mmol, 0.25 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | N-cyano-N'-(2-phenylethyl)-4-cyanobenzene-carboximidamide | 1.87 mmol, 0.51 g, yield: 94% | C(#N)NC(=NCCC1=CC=CC=C1)C1=CC=C(C=C1)C#N | C17H14N4
